Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
rt sided numbness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ man with history of left thalamic
ischemic stroke in ___ of unclear etiology on warfarin
presents with change in sensory symptoms in the right hemibody.  


As residual symptoms from the stroke, the stretching has
primarily right-sided numbness and subtle weakness that has been
gradually improving with ___.  Today at around 1800 ___ felt 
his
right leg was heavy.  In retrospect ___ felt in general like his
body was heavy but noticed it most prominently in the right leg. 

Was able to walk and was not dragging his leg.  At 12:00 ___
noticed more prominent numbness on his right cheek (upper V2
distribution) and along his mandible.  It felt "as though there
was a paper between my hand in my face.  ___ denied worsening
weakness.  Denied confusion, language difficulties, 
comprehension
difficulties, discoordination.  Overall no new symptoms.

Mr. ___ does report recent sore throat and feeling "like his
body is stressed fighting something".  ___ has recurrent oral
herpes and currently has lesions.  ___ reports lesions recur in
the setting of fighting an illness.

On arrival to the ED his BP in the 130s systolic
No code stroke activation
Time/Date the patient was last known well: unk because sxs
started different times (face - 12pm, leg 4pm)
I was no present during the CT scanning as patient not code
stroke

___ Stroke Scale Score: 0

t-PA administered: 
[] Yes - Time given: __
[x] No - Reason t-PA was not given or considered: on AC

Thrombectomy performed: 
[] Yes 
[x] No - Reason not performed or considered: no LVO or large
stroke snyndrome

NIHSS performed within 6 hours of presentation at: 2100 on ___
NIHSS Total: 0
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0 
2.  Best gaze: 0
3.  Visual fields: 0
4.  Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 0
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

STROKE HISTORY per Dr. ___ note
___ presented to ___ ED on ___ after
waking up with right leg followed by a few minutes later right
arm weakness and difficulty walking. Sometime later ___ noticed
some numbness over the right face. ___ had felt normal when going
to bed at 3AM. 

In the ED ___ was hypertensive at 150/100, in sinus rhythm. Based
on neurology consult note his examination was only remarkable 
for
mildly slowed rapid finger movements in the right hand, slightly
reduced sensation in the right hemibody, and unsteady gait. ___
apparently did not have any limb drift nor detectable weakness 
on
confrontation testing. CT/CTA was unremarkable. MRI reported as
showing "slightly increased signal intensity on
diffusion-weighted and FLAIR images in the lateral left 
thalamus/posterior limb of the internal capsule region". ___ was
diagnosed with an ischemic stroke and admitted for further
workup. ___ was started on ASA, Plavix, and Lipitor 80. ___ was
only on Metoprolol prior to the stroke. 

His TTE was essentially unremarkable with no evidence of PFO. ___
subsequently underwent a TEE on ___ (unclear indication
based on my review of the discharge documents). This was 
reported
as showing "prominent ridge separating upper and lower lobe of
left atrial appendage with possible small fibrinous mobile
echodensity noted adherent to it". At this point ___ was switched
to anticoagulation with Warfarin (with Lovenox bridging). DOACs
were initially avoided at the suggestion of neurology apparently
due to concern about hemorrhagic transformation. 

Based on Dr ___ note, ___ had a cardiac CT at ___ on
___ which showed no evidence of intracardiac thrombus. ___
underwent 1 month ambulatory heart monitoring from ___ to ___
which did not show any AFib. 

 
Past Medical History:
1. HTN (dx about ___ years ago, usually SBP 150's usually, but
diastolic has been as high as 110)
2. Vague remote history of palpitations but no known diagnosis 
of
atrial fibrillation
3. Ischemic stroke ___
4. HLD on Atorva 80

 
Social History:
___
Family History:
non contributory
Mother had a stroke in her ___

 
Physical Exam:
On admission:

Vitals: T:  BP:  HR:  RR:  SaO2:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, crusted lesions on
lips
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: left face 100%, right forehead 90%, upper half of V2 right
80%, along manible 80%. cold sensation present and equal.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
orbiting. Slightly slower finger tapping on the right. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5-    5    5    5   5    5    5   5    5    5

-Sensory: No acutal deficits to light touch, pinprick,
temperature, vibration, or proprioception throughout. No
extinction to DSS. ___ absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Did not appreciate spread but more brisk on the right than left
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

At discharge:
Vitals: T:  BP:  HR:  RR:  SaO2:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, crusted lesions on
lips
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: left face 100%, right face 80% compared to left cold 
sensation present and equal.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
orbiting. Slightly slower finger tapping on the right. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5   5    5    5   5    5    5   5    5    5
R    5-   5    5   5    4+   5   4+   5    4+  5    5    5

-Sensory: Decreased sensation to light touch and pinprick on 
right(90%) compared to left. no deficits vibration, or 
proprioception throughout. No
extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

 
Pertinent Results:
___ 05:45AM BLOOD WBC-8.0 RBC-4.88 Hgb-14.8 Hct-44.9 MCV-92 
MCH-30.3 MCHC-33.0 RDW-13.1 RDWSD-44.3 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-39.9* ___
___ 06:08PM BLOOD ___ PTT-46.3* ___
___ 05:45AM BLOOD Glucose-100 UreaN-20 Creat-0.9 Na-143 
K-3.8 Cl-105 HCO3-25 AnGap-13
___ 05:45AM BLOOD ALT-43* AST-24 CK(CPK)-61 AlkPhos-87 
TotBili-0.7
___ 05:45AM BLOOD Calcium-9.2 Phos-3.5 Mg-2.1 Cholest-96
___ 05:45AM BLOOD Triglyc-127 HDL-45 CHOL/HD-2.1 LDLcalc-26
___ 05:45AM BLOOD %HbA1c-5.2 eAG-103
___ 06:08PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:45AM BLOOD TSH-0.79

MRI/MRA brain

1. MRI Brain: No acute intracranial pathology.  A small focal 
region of DWI 
bright signal within the left thalamus/posterior limb of the 
internal capsule 
appears similar in size when compared to CT performed 3 weeks 
prior, without 
definite ADC correlate, compatible with late subacute to chronic 
infarct. 
2. MRA Brain: Patent circle of ___ without evidence of 
stenosis,occlusion,or aneurysm. 
3. MRA Neck: Short-segment small linear filling defect within 
the right 
carotid bulb unchanged from the previous CTA examination is and 
representing a 
carotid web.  No evidence of dissection or high-grade stenosis. 

CTA:
1. Head CT: No acute intracranial pathology.  Small late 
subacute versus 
chronic infarct of the left thalamus/posterior limb internal 
capsule appears 
similar in comparison to CT dated 3 weeks prior. 
2. CTA Head: Patent circle of ___ without evidence of 
high-grade stenosis 
or occlusion. A 1 mm outpouching along the medial aspect of the 
communicating 
segment of the right internal carotid artery may reflect small 
infundibulum 
versus tiny aneurysm. 
3. CTA Neck: Short-segment small linear filling defect within 
the right 
carotid bifurcation and proximal right internal carotid artery 
compatible with 
carotid web appears unchanged since CTA dated ___.  
Otherwise, the 
bilateral cervical carotid and vertebral arteries appear normal 
without 
evidence of stenosis, occlusion, or dissection. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ man with history of left thalamic 
ischemic stroke in ___ of unclear etiology on warfarin 
with residual right hemibody symptoms who presents with 
worsening of numbness on his right face and
an atypical distribution and a heavy feeling of his right leg 
that began somewhat suddenly on the day of presentation in the 
setting of a likely non-febrile illness. His exam is very 
reassuring for no new deficits, has persistent right IP, 
hamstring, right finger extensor weakness from prior stroke. 
History and exam is most consistent with recrudescence. CT head 
showed findings consistent with his prior stroke and CTA showed 
a short segment flap originating in the distal right common 
carotid- ? Dissection. ___ was admitted for close monitoring and 
further evaluation with MRI.
MRI of the brain showed no acute abnormality, prior left 
thalamic/posterior limb infarct. MRA brain showed Short-segment 
small linear filling defect within the right carotid bulb 
unchanged from the previous CTA examination is and representing 
a carotid web. No evidence of dissection or high-grade stenosis. 
A1c 5.2, LDL 26, INR 2.1- 1.8
Upon repeat evaluation his symptoms were unchanged. No new 
deficits noted on exam. Plan to discharge home and recommended 
follow-up with his neurologist Dr. ___ and cardiologist. 
Patient reports that his cardiologist has discussed switching 
___ to apixaban and is planning to follow-up soon.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Warfarin 2 mg PO DAILY16 
3. Metoprolol Succinate XL 100 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Metoprolol Succinate XL 100 mg PO DAILY  
3.  Warfarin 2 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Recrudescence of Prior stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of right sided heaviness 
and right-face numbness resulting from a recrudescence of prior 
stroke (worsening symptoms in the setting of illness).  Your 
exam did not show any new neurological signs.  You underwent MRI 
of your brain which did not show any evidence of new stroke.  
You also underwent blood vessel imaging of your neck and brain 
which showed a small area of abnormality in the right carotid 
artery( blood vessel to right brain) which appears similar to 
your prior scan representing a benign carotid web.  This finding 
is incidental and has not contributed to your symptoms.  We 
recommend continuing treatment with Coumadin as previous.

No change in medications were made.  Please take your 
medications as previously prescribed.

Please follow up with Neurology, cardiology and your primary 
care physician as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___